US04863922
Step D: Preparation of 5,6-dihydro-6-dimethylaminomethyl-4H-thieno[ 2,3-b]thiopyran
To a stirred, refluxing solution of N,N-dimethyl-4-oxo-5,6-dihydro-4H-thieno[2,3-b]thiopyran-6-carboxamide (7.57 g, 0.0314 mol) under nitrogen in tetrahydrofuran (150 ml) was added dropwise over 10 minutes borane-dimethylsulfide complex (9.4 ml, 0.094 mol). Stirring at reflux was continued for 3 hours and 6N HCl (25 ml) was added dropwise and reflux was continued for 1/2 hour. Most of the tetrahydrofuran was removed in vacuo and the residue was diluted with 6N HCl (50 ml) and was heated for 1/2 hour at steam bath temperature under nitrogen. The mixture was cooled in ice and water (100 ml) was added to dissolve the solid, washed with ether (50 ml) and basified with 10N NaOH (75 ml). The product was extracted into ethyl acetate (200 ml) in four portions, washed with water and dried over Na2SO4. The solution was filtered and concentrated in vacuo to obtain an amber oil (5.7 g). Yield was 85%.

reactant | N,N-dimethyl-4-oxo-5,6-dihydro-4H-thieno[2,3-b]thiopyran-6-carboxamide | 0.0314 mol, 7.57 g | CN(C(=O)C1CC(C2=C(S1)SC=C2)=O)C | C10H11NO2S2
reactant | HCl | 6N, 25 ml | Cl | ClH
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 5,6-dihydro-6-dimethylaminomethyl-4H-thieno[ 2,3-b]thiopyran | 5.7 g, Yield was 85% | CN(C)CC1CCC2=C(S1)SC=C2 | C10H15NS2
